US08471005B2
Analogous to Example 1491c, 7-[2-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine (68 mg, 0.18 mmol) and 5-Amino-3,3-dimethyl-1,3-dihydro-indol-2-one (0.0637 g, 0.361 mmol) were reacted to afford 5-({7-[2-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl}amino)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one as a yellow solid (21 mg, 24%). LCMS: 489 (M+H); 1H-NMR (DMSO-d6): 10.12 (s, 1H), 9.24 (s, 1H), 8.94 (s, 1H), 7.86 (m, 1H), 7.63 (m, 1H), 7.53 (m, 1H), 7.28 (dd, 1H, J=8.53 Hz), 6.98 (d, 1H, J=4.93 Hz), 6.91 (d, 1H, J=4.93 Hz), 6.69 (d, 1H, J=8.53 Hz), 3.29 (s, 2H), 3.24 (t, 2H, J=7.69 Hz), 2.14 (quin, 2H, J=7.69 Hz), 1.05 (s, 6H).

reactant | 7-[2-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine | 0.18 mmol, 68 mg | O=S1(N(CCC1)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C)=O | C16H16N4O3S2
reactant | 5-Amino-3,3-dimethyl-1,3-dihydro-indol-2-one | 0.361 mmol, 0.0637 g | NC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H12N2O
product | 5-({7-[2-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl}amino)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 21 mg, 24% | O=S1(N(CCC1)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C1C(C(NC1=CC2)=O)(C)C)=O | C25H24N6O3S
